US04786649
To 6-fluoro-1-(2-thienyl)-7-(3-acetylaminomethyl-4-chloro-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.43 g) is added 20% hydrochloric acid (8 ml), and the mixture is refluxed for 5 hours. After cooling, the mixture is neutralized with saturated aqueous sodium hydrogen carbonate, the precipitated crystals are separated by filtration and dried. The product is converted into its hydrochloride by treating it with a hydrochloric acid-saturated ethanol, and the resulting crude crystals are recrystallized from ethanol-ether to give 6-fluoro-1-(2-thienyl)-7-(3-aminomethyl-4-chloro-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.35 g).

reactant | 6-fluoro-1-(2-thienyl)-7-(3-acetylaminomethyl-4-chloro-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.43 g | FC=1C=C2C(C(=CN(C2=CC1N1CC(C(C1)Cl)CNC(C)=O)C=1SC=CC1)C(=O)O)=O | C21H19ClFN3O4S
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6-fluoro-1-(2-thienyl)-7-(3-aminomethyl-4-chloro-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.35 g | FC=1C=C2C(C(=CN(C2=CC1N1CC(C(C1)Cl)CN)C=1SC=CC1)C(=O)O)=O | C19H17ClFN3O3S
